US07799805B2
N-[2-(4-Chloro-3-formyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide
NMO (318 mg, 2.28 mmol) was added to a sol. of N-[2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide (225 mg, 0.761 mmol) in CH2Cl2 (16 mL). The mixture was stirred for 30 min, and tetrapropylammonium perruthenate (26.7 mg, 0.076 mmol) was added. The mixture was stirred for 1 h at rt, and was filtered over Celite. The filtrate was evaporated under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 19:1) yielded the title compound (180 mg, 81%). LC-MS: tR=0.88 min; ES+: 335.28.

reactant | NMO | 2.28 mmol, 318 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | N-[2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide | 0.761 mmol, 225 mg | ClC1=C(C=C(C=C1)CCNC(CC(F)(F)F)=O)CO | C12H13ClF3NO2
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.076 mmol, 26.7 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-[2-(4-Chloro-3-formyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide | 180 mg, 81% | ClC1=C(C=C(C=C1)CCNC(CC(F)(F)F)=O)C=O | C12H11ClF3NO2
